US05750531
Synthesis of 5-methyl-6-ethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.44 ml, 4.06 mmol) was added to a mixed solution of 5-methyl-6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine(0.80 g, 2.65 mmol) and dimethylformamide(5 ml), 0.60 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | N-methylaniline | 4.06 mmol, 0.44 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 5-methyl-6-ethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloropyrimidine | 2.65 mmol, 0.80 g | CC=1C(=NC(=NC1CC)Cl)N1C(C2=CC=CC=C2CC1)C | C17H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-methyl-6-ethyl-2-(N-methylphenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.60 g, Yield: 55.4% | Cl.CC=1C(=NC(=NC1CC)N(C)C1=CC=CC=C1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C24H28N4.ClH/c1-5-22-17(2)23(26-24(25-22)27(4)20-12-7-6-8-13-20)28-16-15-19-11-9-10-14-21(19)18(28)3;/h6-14,18H,5,15-16H2,1-4H3;1H
